US04126624
2-(1-hydroxyethyl)-3-methoxy-furan (0.350 g, 2.5 mmole) in 4 ml of methanol and 1 ml of water was added to a solution of 2 ml of methanol and 5 ml of water as chlorine gas (2.5 mmoles) was added to the well stirred reaction. The temperature of the reaction was kept below -10° C. at all times. Following the addition the reaction was heated to 90° C. for 3 hours. After cooling, the reaction was adjusted to a pH 2.2 with 50% NaOH solution, the reaction was extracted with chloroform and the chloroform concentrated to yield maltol.

reactant | 2-(1-hydroxyethyl)-3-methoxy-furan | 2.5 mmole, 0.350 g | OC(C)C=1OC=CC1OC | C7H10O3
reactant | chlorine | 2.5 mmoles | ClCl | Cl2
reactant | NaOH | [OH-].[Na+]
solvent | methanol | 4 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | maltol | CC1=C(C(=O)C=CO1)O | C6H6O3
